US04616014
Triethylamine (1 ml) was added to a solution of 2-aminopropiophenone hydrochloride (0.93 g) and dimethyl cyanodithioimidocarbonate (0.73 g) in methanol (3 ml), and the mixture was refluxed for 15 minutes and evaporated under reduced pressure. The residue was dissolved in chloroform and the solution was washed with water, dried over sodium sulfate and concentrated under reduced pressure. The residue was dissolved in a small amount of ethyl acetate and diluted with diisopropyl ether. The resultant precipitates were collected by filtration, washed with diisopropyl ether and dried to give 2-(3-cyano-2-methyl-1-isothioureido)propiophenone (0.99 g).

reactant | Triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 2-aminopropiophenone hydrochloride | 0.93 g | Cl.NC(C(=O)C1=CC=CC=C1)C
reactant | dimethyl cyanodithioimidocarbonate | 0.73 g | C(#N)N=C(SC)SC | C4H6N2S2
solvent | methanol | 3 ml | CO | CH4O
product | 2-(3-cyano-2-methyl-1-isothioureido)propiophenone | 0.99 g | C(#N)N=C(NC(C(=O)C1=CC=CC=C1)C)SC | C12H13N3OS
